US04072498
Using the procedure of Example 1, but substituting 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide and 3-(o-bromophenyl)-4-methylpyrazole for 4-methyl-3-phenylpyrazole, there was obtained 3-(o-bromophenyl)-α-ethyl-N,N,4-trimethylpyrazole-1acetamide, b.p. 188°-190° C./0.12 mm.

reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | 3-(o-bromophenyl)-4-methylpyrazole | BrC1=C(C=CC=C1)C1=NNC=C1C | C10H9BrN2
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
product | 3-(o-bromophenyl)-α-ethyl-N,N,4-trimethylpyrazole-1acetamide | BrC1=C(C=CC=C1)C1=NN(C=C1C)C(C(=O)N(C)C)CC | C16H20BrN3O
